US06441005B1
5-(S)-Azidomethyl-3-[4′-(2″-fluoroethyl)sulfinyl-3′-fluorophenyl]oxazolidine-2-one
This compound was prepared analogously to the synthesis of 5-(S)-azidomethyl-3-[4′-methylsulfinyl-3′-fluorophenyl]oxazolidine-2-one from 5-(S)-azidomethyl-3-[4′-(2″-fluoroethyl)thio-3′-fluorophenyl]oxazolidine-2-one (0.280 g, 0.891 mmol) and m-chloroperoxybenzoic acid (77%, 0.200 g, 0.891 mmol). Yield 0.280 g (95%). MS (m/z): [M+H]+=331.

reactant | 5-(S)-azidomethyl-3-[4′-methylsulfinyl-3′-fluorophenyl]oxazolidine-2-one | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)C)F | C11H11FN4O3S
reactant | 5-(S)-azidomethyl-3-[4′-(2″-fluoroethyl)thio-3′-fluorophenyl]oxazolidine-2-one | 0.891 mmol, 0.280 g | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)SCCF)F | C12H12F2N4O2S
reactant | m-chloroperoxybenzoic acid | 0.891 mmol, 0.200 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
product | 5-(S)-Azidomethyl-3-[4′-(2″-fluoroethyl)sulfinyl-3′-fluorophenyl]oxazolidine-2-one | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)CCF)F | C12H12F2N4O3S
